US04381311
a. 2-Trifluoroacetyl-4,5-bis(4-fluorophenyl)thiophene
A solution of 2,3-bis(4-fluorophenyl)thiophene (10 g, 36.8 mmole) in 50 ml chloroform and 50 ml trifluoroacetic acid was treated with 10 ml trifluoroacetic anhydride and heated at reflux. After 48 hours, additional trifluoroacetic anhydride (10 ml) was added and heating continued. After twelve days total reaction time, the mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated aqueous NaHCO3 and brine, dried and concentrated in vacuo. Recrystallization from hexanes gave the title compound (10.5 g), m.p. 120°-122°.

reactant | 2,3-bis(4-fluorophenyl)thiophene | 36.8 mmole, 10 g | FC1=CC=C(C=C1)C=1SC=CC1C1=CC=C(C=C1)F | C16H10F2S
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 10 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Trifluoroacetyl-4,5-bis(4-fluorophenyl)thiophene | 10.5 g | FC(C(=O)C=1SC(=C(C1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)(F)F | C18H9F5OS
